US08445510B2
trans-4-[4-(3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclohexanecarboxamide
A mixture of tert-butyl 5-bromo-3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (70.0 mg, 0.135 mmol), ethyl trans-4-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexane-carboxylate (97.6 mg, 0.269 mmol), Pd(PPh3)4 (7.78 mg, 0.00673 mmol), potassium fluoride (23.5 mg, 0.404 mmol) and 4:1 dioxane:H2O (5 mL, 50 mmol) was heated in a microwave reactor at 95° C. for 30 min. The material was extracted with DCM and water, and the organic layer was dry-loaded onto silica gel for column chromatography, eluting with 1-2% MeOH/DCM. The fractions containing the intermediate were concentrated in vacuo, and redissolved in MeOH. 12 M of HCl in H2O (0.4 mL, 5 mmol) was added, and the solution was heated to 45° C. for 1 h to remove BOC group. Lithium hydroxide monohydrate (56.5 mg, 1.35 mmol) was added to bring to pH=12, and the solution was heated to 40° C. for 2 h to hydrolyze the ester. The material was concentrated in vacuo and transferred to a separatory funnel with DCM and water. The aqueous layer was added 2 M HCl to bring to pH=6, and the material was extracted. The organic layer was concentrated in vacuo, redissolved in DCM (10 mL, 200 mmol), and NH4Cl (72.0 mg, 1.35 mmol), TBTU (64.9 mg, 0.202 mmol) and DIPEA (0.0704 mL, 0.404 mmol) were added at rt. The solution was stirred for 20 min, then extracted with DCM and water. The organic layer was purified via column chromatography, eluting with 2-5% (7N NH3 in MeOH)/DCM. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.65-1.78 (m, 2H), 1.84 (d, J=7.3 Hz, 3H), 1.94-2.08 (m, 6H), 2.22 (s, 3H), 2.35 (tt, J=12.3, 3.3 Hz, 1H), 4.21 (m, J=10.0, 10.0, 5.2, 5.1 Hz, 1H), 5.10 (q, J=7.0 Hz, 1H), 6.44 (br. s., 1H), 7.08-7.16 (m, 1H), 7.16-7.21 (m, 1H), 7.37 (d, J=1.8 Hz, 1H), 7.39 (d, J=1.0 Hz, 1H), 7.48 (s, 1H), 8.13 (d, J=2.0 Hz, 1H). MS (ES+): m/z=546.16/548.16 (100/50) [MH+]. HPLC: tR=1.40 min (polar—3 min, UPLC-ACQUITY).

reactant | tert-butyl 5-bromo-3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.135 mmol, 70.0 mg | BrC=1C=C2C(=NC1)N(C=C2[C@H](C)C2=C(C(=CC=C2OC(F)F)F)Cl)C(=O)OC(C)(C)C | C21H19BrClF3N2O3
reactant | ethyl trans-4-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexane-carboxylate | 0.269 mmol, 97.6 mg | CC1=C(C=NN1[C@@H]1CC[C@H](CC1)C(=O)OCC)B1OC(C(O1)(C)C)(C)C | C19H31BN2O4
reactant | potassium fluoride | 0.404 mmol, 23.5 mg | [F-].[K+]
reactant | H2O | 50 mmol, 5 mL | O | H2O
reactant | HCl | 12 M | Cl | ClH
reactant | H2O | 5 mmol, 0.4 mL | O | H2O
reactant | Lithium hydroxide monohydrate | 1.35 mmol, 56.5 mg | O.[OH-].[Li+]
reactant | DCM | 200 mmol, 10 mL | C(Cl)Cl | CH2Cl2
reactant | NH4Cl | 1.35 mmol, 72.0 mg | [NH4+].[Cl-]
reactant | TBTU | 0.202 mmol, 64.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.404 mmol, 0.0704 mL | CCN(C(C)C)C(C)C | C8H19N
catalyst | Pd(PPh3)4 | 0.00673 mmol, 7.78 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | trans-4-[4-(3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclohexanecarboxamide | ClC1=C(C(=CC=C1F)OC(F)F)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@@H]2CC[C@H](CC2)C(=O)N | C27H27ClF3N5O2
